US08975443B2
Diphenylsulfide
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with sodium tert-butoxide (33.7 mg, 0.350 mmol, 1.1 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (2.9 mg, 0.00318 mmol, 0.01 equivalents), 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane (3.8 mg, 0.00764 mmol, 0.024 equivalents) and dioxane (0.48 mL). The slurry was stirred at room temperature for 1 hour before adding bromobenzene (34 μL, 0.318 mmol, 1 equivalent) and benzenethiol (33 μL, 0.318 mmol, 1 equivalent). The vial was sealed with a crimp top and stirred at 110° C. After 19 hours, the vial was removed from the heating block, cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with tetrahydrofuran (2 mL) and filtered into a tared 125-mL Erlenmeyer flask. The vial was rinsed with tetrahydrofuran (5×1 mL), followed by washing of the filter cake with tetrahydrofuran (5 mL). A wt % analysis was performed on the filtered solution and an assay yield of 88% was measured against commercially available diphenylsulfide.

reactant | sodium tert-butoxide | 0.350 mmol, 33.7 mg, 1.1 equivalents | CC(C)([O-])C.[Na+]
reactant | 7,7,9,9-tetramethyl-8-(2′,4′,6′-triisopropylbiphenyl-2-yl)-1,4-dioxa-8-phosphaspiro[4.5]decane | 0.00764 mmol, 3.8 mg, 0.024 equivalents | CC1(CC2(OCCO2)CC(P1C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)(C)C)C | C32H47O2P
reactant | bromobenzene | 0.318 mmol, 34 μL, 1 equivalent | BrC1=CC=CC=C1 | C6H5Br
reactant | benzenethiol | 0.318 mmol, 33 μL, 1 equivalent | C1(=CC=CC=C1)S | C6H6S
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00318 mmol, 2.9 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.48 mL | O1CCOCC1 | C4H8O2
product | Diphenylsulfide | yield of 88% | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
